US07576099B2
Preparation of 2-chloro-6-(3,3-dimethylbut-1-ynyl)nicotinic acid
2,6-dichloropyridine-3-carboxylic acid (2.0 g, 10.42 mmol), 3,3-dimethylbut-1-yne (1.4 mL, 11.46 mmol), copper(I) iodide (0.198 g, 1.04 mmol) and bis(triphenylphosphine) palladium(II) chloride (1.46 g, 2.08 mmol) were stirred in 40 mL triethylamine at room temperature for 24 h. The solvent was removed in vacuo and the residue was purified by column chromatography using 10-50% MeOH/EtOAc to furnish 125 mg (5%) of the title compound as an orange solid. m/z=236 (M−1).

reactant | 2,6-dichloropyridine-3-carboxylic acid | 10.42 mmol, 2.0 g | ClC1=NC(=CC=C1C(=O)O)Cl | C6H3Cl2NO2
reactant | 3,3-dimethylbut-1-yne | 11.46 mmol, 1.4 mL | CC(C#C)(C)C | C6H10
solvent | triethylamine | 40 mL | C(C)N(CC)CC | C6H15N
catalyst | copper(I) iodide | 1.04 mmol, 0.198 g | [Cu]I
catalyst | bis(triphenylphosphine) palladium(II) chloride | 2.08 mmol, 1.46 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-chloro-6-(3,3-dimethylbut-1-ynyl)nicotinic acid | 125 mg, 5% | ClC1=C(C(=O)O)C=CC(=N1)C#CC(C)(C)C | C12H12ClNO2
